US08119676B2
(2-Oxo-2,3-dihydrobenzimidazol-1-yl)phenylacetic acid (VIIId)
1.00 g (3.08 mmol) of tert-butyl (2-oxo-2,3-dihydrobenzimidazol-1-yl)acetate (XId) was dissolved in dichloromethane (10 ml) and, while stirring at room temperature, trifluoroacetic acid (6 ml) was added. The reaction solution was stirred for 2 h and then the solvent and excess trifluoroacetic acid were removed in vacuo. The residue was taken up again in toluene, concentrated in vacuo and then dried in vacuo. Yield: 827 mg (100%) of white solid

reactant | tert-butyl (2-oxo-2,3-dihydrobenzimidazol-1-yl)acetate | 3.08 mmol, 1.00 g | O=C1NC2=C(N1CC(=O)OC(C)(C)C)C=CC=C2 | C13H16N2O3
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (2-Oxo-2,3-dihydrobenzimidazol-1-yl)phenylacetic acid | O=C1NC2=C(N1C(C(=O)O)C1=CC=CC=C1)C=CC=C2 | C15H12N2O3
